US04057624
EXAMPLE 2 cl Acrylamide/vinyl laurate copolymer (1:3 molar ratio)
169.5 gm (0.75 mol) of vinyl laurate were dissolved in 400 gm of methanol. To the solution were added 2 gm of azoisobutyronitrile as catalyst. The resulting solution was heated to 60° C and maintained at this temperature for six hours with agitation. During the first two hours of heating, 17.75 gm (0.25 mol) of acrylamide dissolved in 160 l gm of methanol were slowly added drop by drop. The copolymer precipitated during the course of the reaction. After the reaction was complete, the solvent was decanted off and the product was washed a few times with methanol. The product was 159 gm (85% of theory) of acrylamide/vinyl laurate copolymer (1:3 molar ratio).

reactant | vinyl laurate | 0.75 mol, 169.5 gm | C(CCCCCCCCCCC)(=O)OC=C | C14H26O2
reactant | acrylamide | 0.25 mol, 17.75 gm | C(C=C)(=O)N | C3H5NO
solvent | methanol | 400 gm | CO | CH4O
product | Acrylamide vinyl laurate | C(C=C)(=O)N.C(CCCCCCCCCCC)(=O)OC=C | InChI=1S/C14H26O2.C3H5NO/c1-3-5-6-7-8-9-10-11-12-13-14(15)16-4-2;1-2-3(4)5/h4H,2-3,5-13H2,1H3;2H,1H2,(H2,4,5)
